US04711898
A mixture of 7 grams of ethyl benzoylacetate, 6 grams of ethyl anthranilate and 0.5 gram of p-toluenesulfonic acid is dehydrated (by heating) in 300 ml of benzene for three days. Benzene is evaporated therefrom, and the resulting oil is heated at 250° to 280° C. for 0.5 hour in 20 ml of diphenyl ether. After cooling, 250 ml of n-hexane is added thereto, and crystals which separate out therefrom are collected by filtration and recrystallized from methanol to give 4.2 grams of ethyl 2-phenyl-4-quinolone-8-carboxylate, pale brown needles, melting point 218° to 219° C.

reactant | ethyl benzoylacetate | 7 grams | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethyl anthranilate | 6 grams | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | p-toluenesulfonic acid | 0.5 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-phenyl-4-quinolone-8-carboxylate | 4.2 grams | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C(C1)=O)C(=O)OCC | C18H15NO3
